US08877780B2
A stirred mixture of 4-bromo-2-bromomethyl-benzoic acid methyl ester (3.0 g, 10.0 mmol), 3-amino-3-methyl-piperidine-2,6-dione hydrobromide (2.2 g, 10.0 mmol) and triethylamine (2.0 g, 20 mmol) in N,N-dimethylformamide (10 mL) was heated to 90° C. under nitrogen. After 1 h, the mixture was cooled to rt and the solvent was removed in vacuo. The crude residue was purified by column chromatography (95:5 CH2Cl2: MeOH) providing 3-(5-bromo-1-oxo-1,3-dihydro-isoindol-2-yl)-3-methyl-piperidine-2,6-dione (2.0 g, 61% yield); 1H NMR (DMSO-d6) δ 1.67 (s, 3H), 1.87-1.93 (m, 1H), 2.54-2.80 (m, 3H), 4.64 (d, J=17.9 Hz, 1H), 4.73 (d, J=17.9 Hz, 1H), 7.58 (d, J=8.1 Hz, 1H), 7.69 (dd, J=8.1, 1.5 Hz, 1H), 7.88 (d, J=1.5 Hz, 1H), 10.89 (s, 1H).

reactant | 4-bromo-2-bromomethyl-benzoic acid methyl ester | 10.0 mmol, 3.0 g | COC(C1=C(C=C(C=C1)Br)CBr)=O | C9H8Br2O2
reactant | 3-amino-3-methyl-piperidine-2,6-dione hydrobromide | 10.0 mmol, 2.2 g | Br.NC1(C(NC(CC1)=O)=O)C
reactant | triethylamine | 20 mmol, 2.0 g | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 3-(5-bromo-1-oxo-1,3-dihydro-isoindol-2-yl)-3-methyl-piperidine-2,6-dione | 2.0 g, 61% yield | BrC=1C=C2CN(C(C2=CC1)=O)C1(C(NC(CC1)=O)=O)C | C14H13BrN2O3
